* MODELLING FOR STP16NF06
.SUBCKT STP16NF06 1 2 3
LG 2 4  7.5n
LS 12 3 7.5n
LD 6 1  4.5n
RG 4 5  4.901
RS 9 12 0.321E-02
RD 7 6  0.301E-01
RJ 8 7  0.125E-02
CGS 5 9   0.474E-09
CGD 7 10  0.259E-09
CK  11 7  0.669E-10
DGD 11 7 DGD
DBS 12 6 DBS
DBD  9 7 DBD
MOS  13 5 9 9 MOS L=1u W=1u
E1  10 5 101 0 1
E2  11 5 102 0 1
E3  8 13 POLY(2) 6 8 6 12 0 0 0 0  0.778
G1  0 100 7 5 1u
D1  100 101  DID
D2  102 100  DID
R1  101 0  1MEG
R2  102 0  1MEG
 
.MODEL MOS NMOS
+ LEVEL = 3
+ VTO   = 3.867
+ PHI   = 0.941
+ IS    = 0.1P
+ JS    = 0
+ THETA = 0.375
+ KP    = 16.164
 
.MODEL DGD D
+ IS    = 0.1P
+ CJO   = 0.843E-11
+ VJ    = 0.697
+ M     = 0.389
.MODEL DBD D
+ IS    = 0.1P
+ CJO   = 0.248E-12
+ VJ    = 0.789
+ M     = 0.306
.MODEL DBS D
+ IS    = 0.1P
+ BV    = 65
+ N     = 1
+ TT    = 0.707E-07
+ RS    = 0.577E-01
.MODEL DID D
+ IS    = 0.01P
+ RS    = 0
+ BV    = 75

.ENDS STP16NF06
 
* END OF MODELLING
